US07307076B2
c) 5-acetyl-7-benzyloxy-3,4-dihydro-1H-quinolin-2-one
5.0 g (14.07 mmol) methyl 3-(2-acetyl-4-benzyloxy-6-nitro-phenyl)-acrylate are combined with 100 mL ethanol and hydrogenated with Raney nickel as catalyst at 4 bar. The catalyst is separated off and the filtrate is acidified with 15 mL 2 N hydrochloric acid. The product that crystallises out is suction filtered and dried.

reactant | methyl 3-(2-acetyl-4-benzyloxy-6-nitro-phenyl)-acrylate | 14.07 mmol, 5.0 g | C(C)(=O)C1=C(C(=CC(=C1)OCC1=CC=CC=C1)[N+](=O)[O-])C=CC(=O)OC | C19H17NO6
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-acetyl-7-benzyloxy-3,4-dihydro-1H-quinolin-2-one | C(C)(=O)C1=C2CCC(NC2=CC(=C1)OCC1=CC=CC=C1)=O | C18H17NO3
